US07683185B2
5-Dimethylamino-benzo[b]thiophene-2-carboxylic acid ethyl ester (37a).
A suspension of 5-nitrobenzo[b]thiophene-2-carboxylic acid ethyl ester (2.5 g, 10 mmol) and 10% palladium on carbon (250 mg) in ethanol (100 mL) was stirred at room temperature under an atmosphere of hydrogen for 16 h. The mixture was filtered through a pad of celite which was subsequently washed with dichloromethane (3×50 mL). The combined filtrates were concentrated under reduced pressure to give a colourless oil that was suspended in methanol (25 mL). To this mixture was added a 37% aqueous solution of formaldehyde (2.1 mL, 25.9 mmol). To this mixture was added at 0° C. a solution of sodium cyanoborohydride (2.2 g, 35 mmol) and zinc chloride (2.35 g, 17 mmol) in methanol (140 mL). The mixture was stirred at room temperature for 16 hours then concentrated under reduced pressure. The residue was taken up in ethyl acetate (150 mL) and aqueous solution of sodium hydroxide (100 mL, 2M). The organic layer was washed with aqueous sodium hydroxide (100 mL), distilled water (2×100 mL) and brine (3×50 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil that was purified by flash chromatography (20:80:1 diethyl ether:40-60° C. petroleum ether:triethylamine) to give a solid that was recrystallised from ethanol to give the title compound (1.0 g, 60%) as a solid, mp 95-96° C.

reactant | 5-nitrobenzo[b]thiophene-2-carboxylic acid ethyl ester | 10 mmol, 2.5 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)[N+](=O)[O-] | C11H9NO4S
reactant | formaldehyde | 25.9 mmol, 2.1 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 35 mmol, 2.2 g | C(#N)[BH3-].[Na+]
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 140 mL | CO | CH4O
catalyst | zinc chloride | 17 mmol, 2.35 g | [Cl-].[Zn+2].[Cl-]
product | 5-Dimethylamino-benzo[b]thiophene-2-carboxylic acid ethyl ester | 1.0 g, 60% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)N(C)C | C13H15NO2S
